US07452886B2
A. 4-(6-Fluoro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester
A suspension of piperazine-1-carboxylic acid tert-butyl ester hydrochloride (0.75 mmol), 5-bromo-2-fluoropyridine (0.90 mmol), (R)-2,2′-bis(diphenylphosphino)-1, 1′-binaphthyl (0.038 mmol), palladium acetate (0.038 mmol) and cesium carbonate (1.8 mmol) in toluene is stirred at 80° C. for 7 h and then 100° C. for 4 h, and poured into water. The mixture is extracted with AcOEt. The organic layer is washed with water, dried over magnesium sulfate, and concentrated. The crude product is purified by silica gel column chromatography to give the product in 43% yield. Rf=0.61 (n-hexane:AcOEt=1:1)

reactant | piperazine-1-carboxylic acid tert-butyl ester hydrochloride | 0.75 mmol | Cl.C(C)(C)(C)OC(=O)N1CCNCC1
reactant | 5-bromo-2-fluoropyridine | 0.90 mmol | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | (R)-2,2′-bis(diphenylphosphino)-1, 1′-binaphthyl | 0.038 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | cesium carbonate | 1.8 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.038 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 4-(6-Fluoro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 43% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)F | C14H20FN3O2
